US08252798B2
3-[8-(2-Chloro-phenyl)-6-(4-ethyl-piperazin-1-yl)-2-methyl-purin-9-yl]-azetidine-1-carboxylic acid methylester
Add methyl chloroformate (0.0024 mol, 0.22 g, 2.5 equiv.) to a solution of 9-(azetidin-3-yl)-8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-9H-purine (0.0009 mol, 0.4 g) and pyridine (2 mL) in dry dichloromethane (2 mL) at 0° C. and stir for 2 hours at room temperature. Quench the reaction mixture with saturated sodium bicarbonate solution and then extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter and concentrate under reduced pressure to give the residue. Purify the residue by silica gel chromatography eluting with dichloromethane:methanol 98:2 to give the title compound as the freebase (0.155 g). MS (m/z): 470.63 (M+1).

reactant | methyl chloroformate | 0.0024 mol, 0.22 g, 2.5 equiv. | ClC(=O)OC | C2H3ClO2
reactant | 9-(azetidin-3-yl)-8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-9H-purine | 0.0009 mol, 0.4 g | N1CC(C1)N1C2=NC(=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCN(CC1)CC)C | C21H26ClN7
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-[8-(2-Chloro-phenyl)-6-(4-ethyl-piperazin-1-yl)-2-methyl-purin-9-yl]-azetidine-1-carboxylic acid methylester | COC(=O)N1CC(C1)N1C2=NC(=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCN(CC1)CC)C | C23H28ClN7O2
